US06011053
N-(5-Chloro-2-methyl-phenyl)-2-methyl-1H-indole-1-carbothioic acid amide
A stirred slurry of hexane washed potassium hydride (1.51 g, 38 mmol) in 10 mL of dry THF was treated dropwise with a solution of 2-methylindole (5.0 g, 38 mmol) in 30 mL THF. The mixture was stirred until hydrogen evolution ceased. To the dark red solution was slowly added 5-chloro-2-methylphenylisothiocyanate (7 g, 38 mmol) and stirring was continued for 16 hours. The reaction mixture was concentrated in vacuo and the residue partitioned between EtOAc and 1N HCl. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo to give 11.5 g of rose colored solids. The solids were dissolved in Et2O and clarified with Norite-A. Hexane was added to the filtered solution and the precipitate was collected and dried to give 7.0 of the title compound as a light yellow solid, m.p. 121-122° C. (53% of theory).

reactant | potassium hydride | 38 mmol, 1.51 g | [H-].[K+]
reactant | 2-methylindole | 38 mmol, 5.0 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | hydrogen | [H][H] | H2
reactant | 5-chloro-2-methylphenylisothiocyanate | 38 mmol, 7 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
solvent | Hexane | CCCCCC | C6H14
product | N-(5-Chloro-2-methyl-phenyl)-2-methyl-1H-indole-1-carbothioic acid amide | ClC=1C=CC(=C(C1)NC(=S)N1C(=CC2=CC=CC=C12)C)C | C17H15ClN2S
